US05266556
To a solution of methyl 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitroindazol-6-yl carbonate (8 g) in ethanol (100 g), 30% sulfuric acid (20 ml) was added, and the resultant mixture was refluxed for 6 hours. After completion of the reaction, the reaction mixture was poured into water and extracted with diethyl ether. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxy-5-nitroindazole (4.1 g).

reactant | methyl 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitroindazol-6-yl carbonate | 8 g | C(OC)(OC1=C(C=C2C=NN(C2=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-])=O | C16H8Cl2F3N3O5
reactant | water | O | H2O
solvent | ethanol | 100 g | C(C)O | C2H6O
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxy-5-nitroindazole | 4.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC(=C(C=C12)O)[N+](=O)[O-] | C14H6Cl2F3N3O3
